US05523403
(S)-N-[[3-[3-fluoro-4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
Alternatively, the oxazolidinone iodide described above can be converted to (S)-N-[[3-[3-fluoro-4-(trimethylstannyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide, employing conditions disclosed for the corresponding racemic material in TR 7246-92-050. This tin-substituted intermediate (0.180 g, 0.43 mmol) and 5-bromo-2-methoxycyclohepta-2,4,6-trien-1-one (0.103 g, 0.48 mmol) were dissolved in dry DMF (3 mL) and the resultant solution degassed by repeated evacuation and filling with nitrogen. Bis(triphenylphosphine)palladium(II) chloride (0.015 g, 0.02 mmol) was added, the reaction again degassed, and the mixture heated to 80° C. for 2 h. TLC revealed some starting material still remained, so additional palladium catalyst (0.015 g) was added and the mixture heated a further 5 h. The reaction mixture was concentrated in vacuo and the residue chromatographed over silica gel, eluting with a methanol/chloroform gradient, to afford 0.096 g (57%) of the title compound, identical in all respects to material prepared via the above protocol.

reactant | oxazolidinone iodide | [I-].O1C(NCC1)=O
reactant | (S)-N-[[3-[3-fluoro-4-(trimethylstannyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | FC=1C=C(C=CC1[Sn](C)(C)C)N1C(O[C@H](C1)CNC(C)=O)=O
reactant | 5-bromo-2-methoxycyclohepta-2,4,6-trien-1-one | 0.48 mmol, 0.103 g | BrC1=CC=C(C(C=C1)=O)OC | C8H7BrO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 0.015 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-N-[[3-[3-fluoro-4-(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.096 g, 57% | FC=1C=C(C=CC1C1=CC=C(C(C=C1)=O)OC)N1C(O[C@H](C1)CNC(C)=O)=O | C20H19FN2O5
